US06677352B1
A solution of 3,3-dichloro-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one (5.2 g, 18.0 mmol) in 1,4-dioxane (25 mL) was cooled to 0° C. and aniline (5.1 mL, 55.0 mmol) and TEA (7.7 mL, 55.0 mmol) were added dropwise. The reaction mixture was stirred at 0° C. for 1 h and at room temperature for 2 h. The solvents were removed in vacuo. The residue was purified by passing it through a pad of silica gel with EtOAc:Hex (1:5) as the eluent to provide 3,3-dianilino-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one (7.1 g, 99%): LCMS RT: 3.06 min, MH+: 398.7.

reactant | 3,3-dichloro-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one | 18.0 mmol, 5.2 g | ClC(=CC(=O)C=1C(=NC(=CC1Cl)C)Cl)Cl | C9H5Cl4NO
reactant | aniline | 55.0 mmol, 5.1 mL | NC1=CC=CC=C1 | C6H7N
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3,3-dianilino-1-(2,4-dichloro-6-methyl-3-pyridinyl)-2-propen-1-one | 7.1 g, 99% | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=CC1Cl)C)Cl)NC1=CC=CC=C1 | C21H17Cl2N3O
